US04826990
4-[(3-Nitrophenoxy)methyl]-2-phenylthiazole
To a solution of 6.5 g (0.046 mol) of 3-nitrophenol in 300 ml of acetone are added 11.6 g (0.047 mol) of 2-phenyl-4-chloromethylthiazole hydrochloride2, 15 g (0.046 mol) of cesium carbonate, and 0.5 g of potassium iodide and the slurry is heated to reflux for 20 hours. The hot mixture is filtered and the filtrate is concentrated in vacuo to obtain 11.7 g (82%) crystalline residue. A part is recrystallized from ethyl acetate/pentane to give crystals, m.p. 112°-114° C.

reactant | 3-nitrophenol | 0.046 mol, 6.5 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 2-phenyl-4-chloromethylthiazole | 0.047 mol, 11.6 g | C1(=CC=CC=C1)C=1SC=C(N1)CCl | C10H8ClNS
reactant | cesium carbonate | 0.046 mol, 15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
catalyst | potassium iodide | 0.5 g | [I-].[K+]
product | 4-[(3-Nitrophenoxy)methyl]-2-phenylthiazole | 11.7 g, 82% | [N+](=O)([O-])C=1C=C(OCC=2N=C(SC2)C2=CC=CC=C2)C=CC1 | C16H12N2O3S
